US06828448B2
2-Butyl-5-(methan sulfonamido)benzofuran
100 g of 5-amino-2-butylbenzofuran, 192 ml of tetrahydrofuran and 96 ml of methyl tert-butyl ether are introduced into a round-bottomed flask. 59.35 g of methanesulfonyl chloride are added, at 20° C., followed by 43.23 g of 20% aqueous ammonia. 44.51 g of methanesulfonyl chloride are then introduced, followed by 86.47 g of 20% aqueous ammonia. 48 ml of water are then added, the medium is separated by settling and the organic phase is washed twice with 211 g of 10% aqueous sodium chloride solution. The medium is separated by settling and concentrated at 400° C. under vacuum, to give the desired compound in crude form (weight yield: 100%).

reactant | 5-amino-2-butylbenzofuran | 100 g | NC=1C=CC2=C(C=C(O2)CCCC)C1 | C12H15NO
reactant | tetrahydrofuran | 192 ml | O1CCCC1 | C4H8O
reactant | methanesulfonyl chloride | 59.35 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | ammonia | 43.23 g | N | H3N
reactant | methanesulfonyl chloride | 44.51 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | ammonia | 86.47 g | N | H3N
solvent | water | 48 ml | O | H2O
solvent | methyl tert-butyl ether | 96 ml | C(C)(C)(C)OC | C5H12O
product | 2-Butyl-5-(methan sulfonamido)benzofuran | yield: 100% | C(CCC)C=1OC2=C(C1)C=C(C=C2)NS(=O)(=O)C | C13H17NO3S
